US07935699B2
In a round bottom flask was placed (R)—N-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2-(4-methanesulfonyl-3-methoxy-phenyl)-propionamide (14 mg, 0.03 mmol), tetrahydrofuran (2 mL), water (0.5 mL) and acetic acid (2 mL). It was stirred at 25° C. for 2 h and after this time concentrated hydrochloric acid (2 drops) was added and the reaction was complete in 20 min. The reaction was worked up and then purified on a Biotage Flash chromatography system (12M column, silica gel, 10% methanol/ethyl acetate) to afford (R)-3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-2-(4-methanesulfonyl-3-methoxy-phenyl)-propionamide (4 mg, 31%): [α]30589=−40.0° (c=0.10, methanol); ES-HRMS m/e calcd for C21H29N3O5S (M+H)+ 436.1901, observed 436.1902; 1H NMR (300 MHz, DMSO-d6) δ 1.13 (m, 2H, CH2), 1.36-1.83 (m, 8H, 4×CH2), 2.13 (m, 1H, CH), 3.20 (s, 3H, SO2CH3), 3.66 (m, 2 H, OCH2), 3.86 (m, 1H, ArCHCO), 3.95 (s, 3H, OCH3), 3.99 (t, J=5.7 Hz, 2 H, NCH2), 4.83 (t, J=5.3 Hz, 1H, OH), 6.41 (d, J=2.2 Hz, 1H, Ar), 7.14 (dd, Jm=1.2 Hz, Jo=8.2 Hz, 1H, Ar), 7.27 (d, Jm=1.2 Hz, 1H, Ar), 7.53 (d, J=2.2 Hz, 1H, Ar), 7.73 (d, Jo=8.2 Hz, 1H, Ar), 10.72 (s, 1H, NH).

reactant | (R)—N-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2-(4-methanesulfonyl-3-methoxy-phenyl)-propionamide | 0.03 mmol, 14 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)OC)=O)(C)C | C27H43N3O5SSi
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | water | 0.5 mL | O | H2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | (R)-3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-2-(4-methanesulfonyl-3-methoxy-phenyl)-propionamide | 4 mg, 31% | C1(CCCC1)C[C@@H](C(=O)NC1=NN(C=C1)CCO)C1=CC(=C(C=C1)S(=O)(=O)C)OC | C21H29N3O5S
